US04788195
4-(3-Pyridinyl)-N-[3-(trifluoromethyl)phenyl]-2-pyrimidinamine
A 7.04 g amount of 3-dimethylamino-1-(3-pyridinyl)-2-propen-1-one (U.S. Pat. No. 4,281,000) and 18.72 g of [3-(trifluoromethyl)phenyl]guanidine carbonate in 500 ml of n-propanol was heated at reflux temperature for 16 hours. The solvent was evaporated to near dryness, then water was added and the precipitate which formed was collected by filtration, then recrystallized from hexane to give 5.55 g of the desired product, mp 170°-171° C.

reactant | 3-dimethylamino-1-(3-pyridinyl)-2-propen-1-one | CN(C=CC(=O)C=1C=NC=CC1)C | C10H12N2O
reactant | [3-(trifluoromethyl)phenyl]guanidine carbonate | 18.72 g | C(O)(O)=O.FC(C=1C=C(C=CC1)NC(=N)N)(F)F
solvent | n-propanol | 500 ml | C(CC)O | C3H8O
product | 4-(3-Pyridinyl)-N-[3-(trifluoromethyl)phenyl]-2-pyrimidinamine | 5.55 g | N1=CC(=CC=C1)C1=NC(=NC=C1)NC1=CC(=CC=C1)C(F)(F)F | C16H11F3N4
